US07834043B2
ethyl(5R)-5-{(1S)-1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-2-oxotetrahydro-3-furancarboxylate
A solution of tert-Butyl(1S)-1-[(2S)-oxiran-2-yl]-2-phenylethylcarbamate (10.0 g, 38.0 mmol) and diethyl malonate (9.0 ml, 59.3 mmol) in ethanol (27 mL) at 0° C. was treated with a solution of NaOEt (16 mL, 21% in ethanol) over 10 minutes, stirred at 70° C. for 2 hours, cooled to 0° C. and quenched with 10% citric acid solution, and partitioned between ethyl acetate and water. The organic phase was washed with saturated NaHCO3and brine, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel eluting with 0-35% ethyl acetate in hexanes to give the title compound (13.3 g, 93% yield).

reactant | tert-Butyl(1S)-1-[(2S)-oxiran-2-yl]-2-phenylethylcarbamate | 38.0 mmol, 10.0 g | O1[C@H](C1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | diethyl malonate | 59.3 mmol, 9.0 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaOEt | 16 mL | CC[O-].[Na+]
solvent | ethanol | 27 mL | C(C)O | C2H6O
product | ethyl(5R)-5-{(1S)-1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-2-oxotetrahydro-3-furancarboxylate | 13.3 g, 93% yield | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@H]1CC(C(O1)=O)C(=O)OCC | C20H27NO6
